US05641883
(i) Preparation of 8-t-butyl-1-oxaspiro(4,5)decane-3-one oxime
To a solution of hydroxylamine hydrochloride (6.9 g, 0.1 mol) and triethylamine (10.0 g, 0.1 mol) in 10 ml of water was added 8-t-butyl-1-oxaspiro(4,5)decane-3-one (16.0 g, 0.076 mol) in 30 ml tetrahydrofuran. The mixture was stirred at room temperature for 3 hours and at 60° C. for 1 hour. The solvent was then evaporated in vacuo and the residue was partitioned between toluene and brine (100 ml each). The organic layer was washed with brine, dried (MgSO4) and evaporated in vacuo to yield a colourless oil (17.0 g) which crystallised on standing. Recrystallisation from light petroleum gave two fractions of colourless crystals (6.6 g and 5.3 g) mp.: 118-120 and 105°-108° C. 1H-NMR indicated mixtures of geometric isomers (E/Z) in ratios of 1:1 and 2:1 respectively.

reactant | hydroxylamine hydrochloride | 0.1 mol, 6.9 g | Cl.NO
reactant | triethylamine | 0.1 mol, 10.0 g | C(C)N(CC)CC | C6H15N
reactant | 8-t-butyl-1-oxaspiro(4,5)decane-3-one | 0.076 mol, 16.0 g | C(C)(C)(C)C1CCC2(CC(CO2)=O)CC1 | C13H22O2
solvent | water | 10 ml | O | H2O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 8-t-butyl-1-oxaspiro(4,5)decane-3-one oxime | 17.0 g | C(C)(C)(C)C1CCC2(CC(CO2)=NO)CC1 | C13H23NO2
